US08729263B2
To a solution of 3,6-dichloropyridazine (462 mg, 3.10 mmol) in n-butanol (8 mL) was added DIPEA (1.354 ml, 7.75 mmol) and (3aR,6aS)-tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (658 mg, 3.1 mmol). The reaction mixture was heated at 120° C. for 2 hour, and then diluted with DCM and water. The organic layer was separated and concentrated to a brownish oil, which was purified by silica gel chromatography (0-25% EtOAc/DCM) to afford (3aR,6aS)-tert-butyl 5-(6-chloropyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (730 mg, 2.180 mmol, 70% yield), MS (M+1)=325.2.

reactant | 3,6-dichloropyridazine | 3.10 mmol, 462 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | DIPEA | 7.75 mmol, 1.354 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (3aR,6aS)-tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 3.1 mmol, 658 mg | C1N(C[C@@H]2[C@H]1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
solvent | n-butanol | 8 mL | C(CCC)O | C4H10O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (3aR,6aS)-tert-butyl 5-(6-chloropyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 2.180 mmol, 730 mg, 70% yield | ClC1=CC=C(N=N1)N1C[C@@H]2[C@H](C1)CN(C2)C(=O)OC(C)(C)C | C15H21ClN4O2
